US07101886B2
3-{4-[2-(3-Methyl-2-nitro-phenyl)-ethyl]-piperazin-1-yl}-1,2-benzisothiazole was prepared according to the general method as outlined in Preparation 2 starting with 3-piperazin-1-yl-benzoisothiazole hydrochloride (1.71 g, 6.7 mmol) and 3-methyl-2-nitrophenethyl tosylate (1.8 g, 5.37 mmol). The product was isolated via column chromatography to afford 290 mg of brown oil. Yield 11%; MS (APCI): 383 [M+H]+.

reactant | 3-piperazin-1-yl-benzoisothiazole hydrochloride | 6.7 mmol, 1.71 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
reactant | 3-methyl-2-nitrophenethyl tosylate | 5.37 mmol, 1.8 g | S(=O)(=O)(OCCC1=C(C(=CC=C1)C)[N+](=O)[O-])C1=CC=C(C)C=C1 | C16H17NO5S
product | 3-{4-[2-(3-Methyl-2-nitro-phenyl)-ethyl]-piperazin-1-yl}-1,2-benzisothiazole | Yield 11% | CC=1C(=C(C=CC1)CCN1CCN(CC1)C1=NSC2=C1C=CC=C2)[N+](=O)[O-] | C20H22N4O2S
